US07326790B2
By the method of Asian. J. Chem., 2000, 12, 1358-1360, (±)-5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)-2-isoxazoline can be treated with diphosphorus pentasulfide followed by aqueous quench to produce (±)-5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)-2-isothiazoline. The nitrophenyl group can be reduced to the corresponding aniline with tin dichloride or iron powder and ammonium chloride. The aniline, in turn, can be treated with 2,2-dichloroacetyl chloride and triethylamine to yield (±)-2,2-dichloro-N-[4-[5-(2,6-dichlorophenyl)-3-(2-isothiazolinyl)]phenyl acetamide.

reactant | (±)-5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)-2-isoxazoline | ClC1=C(C(=CC=C1)Cl)C1CC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H10Cl2N2O3
reactant | diphosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | (±)-5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)-2-isothiazoline | ClC1=C(C(=CC=C1)Cl)C1CC(=NS1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H10Cl2N2O2S
